US04766222
Preparation of ethoxy acetyl carnitine chloride
A mixture of ethoxy acetic acid (5 ml; 0.07 moles) and ethoxyacetyl chloride (1.8 ml; 0.015 moles) which had been prepared as disclosed in step (b) of Example 5, was kept under stirring for 2 hours at 80° C. To this mixture carnitine chloride (2 g; 0.01 moles) which had been previously dried was added. The resulting mixture was first kept at 80° C. until complete dissolution of carnitine took place, then at 40° C. for eight days. A further amount of ethoxyacetyl chloride (0.9 ml; 0.007 moles) was added and the resulting mixture was kept at 40° C. for seven days. Upon addition to the mixture of tert-butyl methyl ether an oil precipitated. The oil precipitation was repeated four times with acetonitrile/tert butyl methyl ether until complete removal of the ethoxyacetic acid in excess. 1.5 grams of the title compound were thus obtained. Yield: 75%

reactant | ethoxy acetic acid | 0.07 moles, 5 ml | C(C)OCC(=O)O | C4H8O3
reactant | ethoxyacetyl chloride | 0.015 moles, 1.8 ml | C(C)OCC(=O)Cl | C4H7ClO2
reactant | carnitine chloride | 0.01 moles, 2 g | C[N+](C)(C)CC(CC(=O)[O-])O | C7H15NO3
reactant | carnitine | OC(C[N+](C)(C)C)CC([O-])=O | C7H15NO3
reactant | ethoxyacetyl chloride | 0.007 moles, 0.9 ml | C(C)OCC(=O)Cl | C4H7ClO2
solvent | tert-butyl methyl ether | COC(C)(C)C | C5H12O
product | ethoxy acetyl carnitine chloride | 1.5 grams, Yield: 75% | C(C)OCC(=O)C(O)(C[N+](C)(C)C)CC([O-])=O.[Cl-] | InChI=1S/C11H21NO5.ClH/c1-5-17-7-9(13)11(16,6-10(14)15)8-12(2,3)4;/h16H,5-8H2,1-4H3;1H/p-1
